*Custom Compiler Version N-2017.12-SP1-2
*Mon Jun  1 20:24:35 2026

.GLOBAL gnd! vdd!
********************************************************************************
* Library          : inv
* Cell             : inv
* View             : schematic
* View Search List : hspice hspiceD cmos.sch cmos_sch schematic veriloga
* View Stop List   : hspice hspiceD veriloga
********************************************************************************
m2 out in vdd! vdd! P w=0.4u l=0.1u nf=1 m=1 ad=88f as=88f pd=0.84u ps=0.84u
+ nrd=0.55 nrs=0.55 sa=0.22u sb=0.22u sd=0
m3 out in gnd! gnd! N w=0.2u l=0.1u nf=1 m=1 ad=44f as=44f pd=0.64u ps=0.64u
+ nrd=1.1 nrs=1.1 sa=0.22u sb=0.22u sd=0

